US07612114B2
Synthesized from 5-methoxy-2-(7-methoxy-2,2-dimethylchroman-3-yl)phenylamine and 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride according to an analogous synthetic method to Example 152, [4-(2-azepan-1-ylethoxy)benzyl][5-methoxy-2-(7-methoxy-2,2-dimethylchroman-3-yl)phenyl]amine (493 mg) was used according to an analogous synthetic method to Example 36 to provide [4-(2-azepan-1-ylethoxy)benzyl]ethyl[5-methoxy-2-(7-methoxy-2,2-dimethylchroman-3-yl)phenyl]amine (504 mg). This compound (502 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (380 mg).

reactant | 5-methoxy-2-(7-methoxy-2,2-dimethylchroman-3-yl)phenylamine | COC=1C=CC(=C(C1)N)C1C(OC2=CC(=CC=C2C1)OC)(C)C | C19H23NO3
reactant | 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride | Cl.N1(CCCCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | [4-(2-azepan-1-ylethoxy)benzyl][5-methoxy-2-(7-methoxy-2,2-dimethylchroman-3-yl)phenyl]amine | 493 mg | N1(CCCCCC1)CCOC1=CC=C(CNC2=C(C=CC(=C2)OC)C2C(OC3=CC(=CC=C3C2)OC)(C)C)C=C1 | C34H44N2O4
product | [4-(2-azepan-1-ylethoxy)benzyl]ethyl[5-methoxy-2-(7-methoxy-2,2-dimethylchroman-3-yl)phenyl]amine | 504 mg | N1(CCCCCC1)CCOC1=CC=C(CN(C2=C(C=CC(=C2)OC)C2C(OC3=CC(=CC=C3C2)OC)(C)C)CC)C=C1 | C36H48N2O4
